* Z:\home\martin\Escritorio\2024\githubTC2\TC2\TS1.asc
R1 N001 V1 2k
R2 V2 N001 2k
V1 V1 0 0 AC 1
XU1 N001 N002 V2 opamp Aol=100K GBW=10Meg
R3 N002 0 100
C1 N001 N002 2µ
.ac lin 1000 1k 90k
.inc opamp.sub
.backanno
.end
